US09062092B2
Compound 27b. (S)-3-Methyl-2-(2-methyl-but-3-enyloxy)-butyric acid methyl ester
A solution of (S)-2-hydroxy-3-methyl-butyric acid methyl ester (1.32 g, 10 mmol) in tetrahydrofuran (30 mL) was stirred at −10° C. under nitrogen. Sodium bis(trimethylsilyl)amide (6 mL, 12 mmol, 2 M in tetrahydrofuran) was added dropwise and the reaction mixture was stirred at −10° C. for 10 min. Trifluoro-methanesulfonic acid 2-methyl-but-3-enyl ester (2.18 g, 10 mmol) was added in one portion and the reaction mixture was stirred at room temperature for 2 h. Saturated ammonium chloride solution was added and the mixture was extracted with ethyl acetate. The organic extracts were combined, washed with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/diethyl ether 20:1 to 10:1 to afford the title compound (429 mg, 21% over 2 steps) as an oil, as a 1:1 mixture of two diastereoisomers. 1H NMR (300 MHz, CDCl3) δ 0.96-0.99 (m, 6H), 1.05 (d, J=6.9 Hz, 1.5H), 1.08 (d, J=6.6 Hz, 1.5H), 2.01-2.12 (m, 1H), 2.45-2.56 (m, 1H), 3.06-3.21 (m, 1H), 3.44-3.60 (m, 2H), 3.76 (s, 3H), 5.00-5.11 (m, 2H), 5.74-5.88 (m, 1H).

reactant | (S)-2-hydroxy-3-methyl-butyric acid methyl ester | 10 mmol, 1.32 g | COC([C@H](C(C)C)O)=O | C6H12O3
reactant | Sodium bis(trimethylsilyl)amide | 12 mmol, 2 M, 6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Trifluoro-methanesulfonic acid 2-methyl-but-3-enyl ester | 10 mmol, 2.18 g | CC(COS(=O)(=O)C(F)(F)F)C=C | C6H9F3O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (S)-3-Methyl-2-(2-methyl-but-3-enyloxy)-butyric acid methyl ester | 429 mg, 21% | COC([C@H](C(C)C)OCC(C=C)C)=O | C11H20O3
